US04282212
1-(N-n-Pentanecarbonyl-carbamoyl)-2-cyanoaziridine
In a manner analogous to that described in Example 14, from 0.81 g. 2-cyanoaziridine, dissolved in 8 ml. toluene, and a solution of 1.7 g. n-pentanecarbonyl isocyanate in 17 ml. toluene, there are obtained, without purification with diethyl ether, 1.6 g. 1-(N-n-pentanecarbonyl-carbamoyl)-1-cyanoaziridine; m.p. 143°-144° C.

reactant | 2-cyanoaziridine | C(#N)C1NC1 | C3H4N2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | n-pentanecarbonyl isocyanate | C(CCCC)C(=O)N=C=O | C7H11NO2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-(N-n-Pentanecarbonyl-carbamoyl)-2-cyanoaziridine | C(CCCC)C(=O)NC(=O)N1C(C1)C#N | C10H15N3O2
